US08133889B2
Step A: 3-(3,5-Dimethyl-1H-pyrrol-2-ylmethylene)-5-(2-oxo-oxazolidin-3-ylmethyl)-1,3-dihydro-indol-2-one
A solution of 5-(2-oxo-oxazolidin-3-ylmethyl)-1,3-dihydro-indol-2-one (4.3 mmoles), 3,5-dimethyl-1H-pyrrole-2-carbaldehyde (5.17 mmoles) and piperidine (3 mmoles) in ethanol (30 ml) is heated at reflux for 24 hours. The solid formed is filtered off, washed with ethanol, with water and then with ethanol and dried in vacuo to yield the title product.

reactant | 5-(2-oxo-oxazolidin-3-ylmethyl)-1,3-dihydro-indol-2-one | 4.3 mmoles | O=C1OCCN1CC=1C=C2CC(NC2=CC1)=O | C12H12N2O3
reactant | 3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 5.17 mmoles | CC1=C(NC(=C1)C)C=O | C7H9NO
reactant | piperidine | 3 mmoles | N1CCCCC1 | C5H11N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(3,5-Dimethyl-1H-pyrrol-2-ylmethylene)-5-(2-oxo-oxazolidin-3-ylmethyl)-1,3-dihydro-indol-2-one | CC1=C(NC(=C1)C)C=C1C(NC2=CC=C(C=C12)CN1C(OCC1)=O)=O | C19H19N3O3
